US04810806
A suspension of 17.3 g (0.36 mol) of 50% NaH in mineral oil in 100 mL of diglyme was treated with a solution of 33.9 g (0.36 mol) of phenol in 50 mL of diglyme. The resulting mixture was stirred overnight and then charged into a 400 mL metal tube along with 38.6 g (0.36 mol) of 2-chloroethyl formate and 40 g (0.40 mol) of tetrafluoroethylene. The resulting mixture was agitated for 12 h, and then added to 1 L of cold water, thereby causing the formation of layers. The lower layer was washed with water, dried over CaSO4, and distilled to afford 54.5 g (57% yield) of 2-(2-phenoxytetrafluoro-ethyl)-1,3-dioxolane, b.p. 62°-65° at 8 Pa (0.06 mm). The IR (neat) and NMR (CCl4) spectra of the product were consistent with the assigned sstructure.

reactant | NaH | 0.36 mol, 17.3 g | [H-].[Na+]
reactant | phenol | 0.36 mol, 33.9 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2-chloroethyl formate | 0.36 mol, 38.6 g | C(=O)OCCCl | C3H5ClO2
reactant | tetrafluoroethylene | 0.40 mol, 40 g | FC(=C(F)F)F | C2F4
solvent | diglyme | 100 mL | COCCOCCOC | C6H14O3
solvent | diglyme | 50 mL | COCCOCCOC | C6H14O3
solvent | water | 1 L | O | H2O
product | 2-(2-phenoxytetrafluoro-ethyl)-1,3-dioxolane | 54.5 g, 57% yield | O(C1=CC=CC=C1)C(C(C1OCCO1)(F)F)(F)F | C11H10F4O3
